US04042372
6-Ethyl-2-(trifluoromethyl)-5H-1,3,4-thiadiazolo[3,2-a]-s-triazine-5,7-(6H)-dione weighing 1.8 g.
, and having a melting point of about 173°-175° C., from 1.9 g. of 1-ethyl-3-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)urea and phosgene.

reactant | 1-ethyl-3-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)urea | C(C)NC(=O)NC=1SC(=NN1)C(F)(F)F | C6H7F3N4OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 6-Ethyl-2-(trifluoromethyl)-5H-1,3,4-thiadiazolo[3,2-a]-s-triazine-5,7-(6H)-dione | C(C)N1C(N=C2N(C1=O)N=C(S2)C(F)(F)F)=O | C7H5F3N4O2S
